US05508293
Into a solution of 3-cyano-5-isopropylaminopyridine (118 mg, 0.73 mmol) in 1-propanol (20 ml) was passed hydrogen chloride gas under ice-cooling for 30 minutes. The reactor was tight sealed, and the mixture was stirred at room temperature for 17 hours. After the reaction was completed, the reaction mixture was concentrated under reduced pressure, and the residue was neutralized with a saturated sodium carbonate solution and extracted with chloroform (50 ml×3). The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a yellow syrup. To the syrup was then added an aqueous solution (6 ml) of cyanamide (61 mg, 1.45 mmol), Na2HPO4 (104 mg, 0.73 mmol) and NaH2PO4 ·2H2O (456 mg, 2.92 mmol), and the mixture was stirred at room temperature for 22 hours. After the reaction was completed, the reaction mixture was extracted with chloroform (30 ml×3), and the chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give propyl N-cyano-5-isopropylamino-3-pyridinecarboximidate (80 mg, 0.33 mmol) as a yellow syrup (Yield 44%).

reactant | 3-cyano-5-isopropylaminopyridine | 0.73 mmol, 118 mg | C(#N)C=1C=NC=C(C1)NC(C)C | C9H11N3
reactant | hydrogen chloride | Cl | ClH
reactant | cyanamide | 1.45 mmol, 6 ml, 61 mg | N#CN | CH2N2
reactant | 1-propanol | 20 ml | C(CC)O | C3H8O
product | propyl N-cyano-5-isopropylamino-3-pyridinecarboximidate | 0.33 mmol, 80 mg, Yield 44% | C(#N)N=C(OCCC)C=1C=NC=C(C1)NC(C)C | C13H18N4O
